US06245804B1
4-(4-Acetylphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid
Analogously to the compound above of 4-(4-bromophenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester, tributyl-1-ethoxyvinyltin, tri-o-tolylphosphine and bis-tri-o-tolylphosphine-palladium(II) chloride in dimethylformamide to 120° C. and subsequent acidic hydrolysis of the enol ether and alkaline saponification, melting point 158-162° C.

reactant | 4-(4-bromophenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | C(C)OC(C(CC(C)(C)C1=CC=C(C=C1)Br)(C(F)(F)F)O)=O | C15H18BrF3O3
reactant | tributyl-1-ethoxyvinyltin | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-Acetylphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid | C(C)(=O)C1=CC=C(C=C1)C(CC(C(=O)O)(C(F)(F)F)O)(C)C | C15H17F3O4
